US07087626B2
(R)-5-Benzyloxymethyl-1-[2-(4-fluoro-phenyl)-1-(6-methyl-pyridin-2-yl)-ethylideneamino]-pyrrolidin-2-one
Boron trifluoride etherate (0.25 mL, 1.98 mmol) is added to a solution of 2-(4-fluoro-phenyl)-1-(6-methyl-pyridin-2-yl)-ethanone (0.45 g, 1.98 mmol) in tetrahydrofuran (6.6 mL) under nitrogen and stirred for 30 min. A solution of (R)-1-amino-5-benzyloxymethyl-pyrrolidin-2-one (0.43 g, 1.98 mmol) in tetrahydrofuran (1.0 mL) is added and the resulting mixture is stirred for 1 h. The mixture is concentrated in vacuo and the residue chromatographed on a SiO2 column (30% ethyl acetate/hexanes) to yield the title compound, 380 mg (45%), as a yellow foam.

reactant | Boron trifluoride etherate | 1.98 mmol, 0.25 mL | B(F)(F)F.CCOCC
reactant | 2-(4-fluoro-phenyl)-1-(6-methyl-pyridin-2-yl)-ethanone | 1.98 mmol, 0.45 g | FC1=CC=C(C=C1)CC(=O)C1=NC(=CC=C1)C | C14H12FNO
reactant | (R)-1-amino-5-benzyloxymethyl-pyrrolidin-2-one | 1.98 mmol, 0.43 g | NN1C(CC[C@@H]1COCC1=CC=CC=C1)=O | C12H16N2O2
solvent | tetrahydrofuran | 6.6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | (R)-5-Benzyloxymethyl-1-[2-(4-fluoro-phenyl)-1-(6-methyl-pyridin-2-yl)-ethylideneamino]-pyrrolidin-2-one | C(C1=CC=CC=C1)OC[C@H]1CCC(N1N=C(CC1=CC=C(C=C1)F)C1=NC(=CC=C1)C)=O | C26H26FN3O2
